US07517896B2
V.1. Methyl 4-{[(2-hydroxyphenethyl)amino]methyl}benzoate
At 0° C., 176.8 ml (176.8 mmol) of a 1N boron tribromide solution in methylene chloride are added dropwise to 16.03 g (53.561 mmol) of methyl 4-{[(2-methoxyphenethyl)amino]methyl}benzoate from Example. I.1 in 100 ml of methylene chloride. After one hour of stirring at 0° C., 150 ml of methanol are added and the solution is heated at reflux for 4 hours. The solvent is distilled off under reduced pressure and the residue is taken up in a mixture of 190 ml of ethyl acetate and 10 ml of methanol. Using 10% strength sodium carbonate solution, the mixture is made alkaline and extracted with ethyl acetate/methanol 9/1. The combined organic phases are washed with saturated sodium chloride solution and dried over magnesium sulphate, and the solvent is distilled off under reduced pressure. The crude product is purified by chromatography over silica gel (0.04-0.063 nm) using the mobile phase methylene chloride/methanol 100/2.

reactant | boron tribromide | 1N | B(Br)(Br)Br | BBr3
reactant | methyl 4-{[(2-methoxyphenethyl)amino]methyl}benzoate | 53.561 mmol, 16.03 g | COC1=C(CCNCC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C18H21NO3
reactant | methanol | 150 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-{[(2-hydroxyphenethyl)amino]methyl}benzoate | OC1=C(CCNCC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C17H19NO3
